US09120749B2
1-(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)propan-1-one
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate (100 mg, 0.18 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (81 mg, 0.28 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (8 mg, 9% over two steps) as an orange-brown solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.29 (s, 1H), 8.27-8.19 (m, 2H), 8.07-7.99 (m, 2H), 7.85-7.70 (m, 1H), 7.29 (s, 2H), 6.96 (d, J=9.2 Hz, 1H), 4.15-4.05 (m, 1H), 4.07-3.99 (m, 1H), 3.89-3.80 (m, 1H), 3.79-165 (m, 2H), 3.27-3.18 (m, 2H), 2.63-2.52 (m, 1H), 2.34-2.23 (m, 1H), 1.31-1.22 (m, 3H); ESI MS m/z 522 [C27H25Cl2N5O2+H]+; HPLC 95.7% (AUC), tR=10.98 min.

reactant | tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C26H30BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.28 mmol, 81 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)propan-1-one | 8 mg, 9% | NC1CN(CC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(CC)=O | C27H25Cl2N5O2
